US07956061B2
(2,4-Dimethylbenzylidene)malononitrile
This material was prepared from malononitrile and 2,4-dimethylbenzaldehyde according to the procedure of M. Boehringer et al., WO 03/068748.

reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 2,4-dimethylbenzaldehyde | CC1=C(C=O)C=CC(=C1)C | C9H10O
product | (2,4-Dimethylbenzylidene)malononitrile | CC1=C(C=C(C#N)C#N)C=CC(=C1)C | C12H10N2
